US09284308B2
5-(Benzo[b]thiophen-2-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
Proline (0.695 g, 5.98 mmol) was added to a solution of benzo[b]thiophene-2-carbaldehyde (5.00 g, 29.9 mmol) and Meldrum's acid (4.31 g, 29.9 mmol) in EtOH (50 mL). The mixture was stirred at room temperature for 1 hour and diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate (7.57 g, 29.9 mmol) was added. Stirring was continued for 5 hours at room temperature and the precipitated product isolated by filtration rinsing further with iPrOH and dried under reduced pressure to provide the title compound as a white solid.

reactant | Proline | 5.98 mmol, 0.695 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzo[b]thiophene-2-carbaldehyde | 29.9 mmol, 5.00 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | Meldrum's acid | 29.9 mmol, 4.31 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 29.9 mmol, 7.57 g | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
solvent | EtOH | 50 mL | CCO | C2H6O
product | 5-(Benzo[b]thiophen-2-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | S1C2=C(C=C1CC1C(OC(OC1=O)(C)C)=O)C=CC=C2 | C15H14O4S
